US07637969B2
Glycerine triacetate was prepared by the reaction of crude glycerine obtained in stage (2) with methyl acetate in the presence of potassium hydroxide as a catalyst, according to the procedure described by E. Fischer, B.53, 1640 (1920).

reactant | methyl acetate | C(C)(=O)OC | C3H6O2
catalyst | potassium hydroxide | [OH-].[K+]
solvent | glycerine | OCC(O)CO | C3H8O3
product | Glycerine triacetate | C(C)(=O)OCC(OC(C)=O)COC(C)=O | C9H14O6
